US08030322B2
1-(3-(5-fluoro-2,3-dihydrospiro[indene-1,3′-pyrrolidine]-1′-yl)propyl)-5-(thiophen-2-yl)pyrimidine-2,4(1H,3H)-dione hydrochloride (E9)
A mixture of 1-(3-chloropropyl)-5-(thiophen-2-yl)pyrimidine-2,4(1H,3H)-dione (Prep24, 50 mg, 0.18 mmol), 5-fluoro-2,3-dihydrospiro[indene-1,3′-pyrrolidine]hydrochloride salt (Prep14, 52 mg, 0.27 mmol), potassium carbonate (112 mg, 0.81 mmol), sodium iodide (112 mg, 0.75 mmol) and NMP (1 ml) was stirred at 70° C. overnight. The mixture was diluted with water and extracted with ethyl acetate. The EA phase was evaporated and the crude purified by preparative TLC to give the free base of the title compound (60 mg). the compound was purified by preparative HPLC and treated with a 1N solution of HCl-ether to give the title compound (6 mg, y=7%).

reactant | 1-(3-chloropropyl)-5-(thiophen-2-yl)pyrimidine-2,4(1H,3H)-dione | 0.18 mmol, 50 mg | ClCCCN1C(NC(C(=C1)C=1SC=CC1)=O)=O | C11H11ClN2O2S
reactant | 5-fluoro-2,3-dihydrospiro[indene-1,3′-pyrrolidine]hydrochloride salt | 0.27 mmol, 52 mg | Cl.FC=1C=C2CCC3(CNCC3)C2=CC1
reactant | potassium carbonate | 0.81 mmol, 112 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.75 mmol, 112 mg | [I-].[Na+]
solvent | water | O | H2O
solvent | NMP | 1 ml | CN1CCCC1=O | C5H9NO
product | 1-(3-(5-fluoro-2,3-dihydrospiro[indene-1,3′-pyrrolidine]-1′-yl)propyl)-5-(thiophen-2-yl)pyrimidine-2,4(1H,3H)-dione hydrochloride | 60 mg | Cl.FC=1C=C2CCC3(CN(CC3)CCCN3C(NC(C(=C3)C=3SC=CC3)=O)=O)C2=CC1 | InChI=1S/C23H24FN3O2S.ClH/c24-17-4-5-19-16(13-17)6-7-23(19)8-11-26(15-23)9-2-10-27-14-18(20-3-1-12-30-20)21(28)25-22(27)29;/h1,3-5,12-14H,2,6-11,15H2,(H,25,28,29);1H
